US05929281
A 200 ml Kjeldahl flask equipped with a cooling condenser and a thermometer was charged with a solution of 22.0 g of piperazine in 20 ml of o-xylene, a solution of 6.70 g of bromobenzene in 20 ml of o-xylene, and a solution of 5.66 g of NaOBut in 20 ml of o-xylene, and further with a solution of 4.5 mg of palladium acetate in 5 ml of o-xylene (the ratio of palladium atom/bromobenzene=0.05% by mole). The flask was flushed with nitrogen for about 20 minutes while the content was stirred, and 0.2 ml of tri-tert.-butylphosphine was added. Then the mixture was heated to 120° C., and maintained at that temperature for 3 hours with stirring. After completion of the reaction, 80 ml of water was added to cool the reaction product. The mixture was introduced in a separatory funnel and the organic phase was separated. The lower aqueous phase was extracted with 40 ml of o-xylene. The organic phase was dried over sodium sulfate. Gas chromatographic analysis of the obtained product by the internal standard method revealed that the intended arylamine, i.e., N-phenylpiperazine was obtained in a yield of 92% by mole.

reactant | piperazine | 22.0 g | N1CCNCC1 | C4H10N2
reactant | bromobenzene | 6.70 g | BrC1=CC=CC=C1 | C6H5Br
solvent | o-xylene | 20 ml | CC=1C=CC=CC1C | C8H10
solvent | o-xylene | 20 ml | CC=1C=CC=CC1C | C8H10
solvent | o-xylene | 20 ml | CC=1C=CC=CC1C | C8H10
solvent | o-xylene | 5 ml | CC=1C=CC=CC1C | C8H10
catalyst | palladium acetate | 4.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | N-phenylpiperazine | yield of 92% | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
